US04939138
The 1-acetyl-5,7-dibromonaphthalene used in the foregoing procedure was prepared by dibromination of benz[cd]-indol-2(1H)-one with bromine in glacial acetic acid to give 41 g of 6,8-dibromobenz[cd]indol-2(1H)-one, m.p. 259°-260° C. The latter (12.8 g) was heated under reflux for one hour in two liters of 5% potassium hydroxide, the reaction mixture was cooled, filtered and then treated with 2.8 g of a solution of sodium nitrite in 50 ml of water. The resulting solution, cooled to 0° C., was added dropwise to 800 ml of a 40% solution of sulfuric acid while maintaining the temperature at -5° C. The reaction mixture was stirred for one hour, then poured slowly into a solution of 140 g of sodium hypophosphite in 800 ml of water at 0° C. with stirring. The solid which separated was collected by filtration and dissolved in 3 liters of 2% sodium carbonate solution, and the resulting solution was filtered, acidified with concentrated hydrochloric acid and the mixture extracted with ethyl acetate The combined organic extracts were dried and taken to dryness to give 8 g of 5,7-dibromo-1-naphthalenecarboxylic acid which was heated with thionyl chloride in the presence of a small amount of DMF. The resulting crude 5,7-dibromo-1-naphthalenecarboxylic acid chloride, together with 6.0 g of methoxymethylamine hydrochloride in 750 ml of MDC, was treated dropwise at 0° C. with 60 ml of triethylamine in 250 ml of MDC. The reaction mixture was filtered, the filtrate was taken to dryness, and the resulting residue (12.0 g) was dissolved in THF and treated at 0° C. with stirring with a solution of 29.5 ml of 3M methyl magnesium bromide The reaction mixture was stirred for ten minutes, quenched with water, taken to dryness and the residue partitioned between ethyl acetate and water. The mixture was filtered, the organic extracts were separated, dried and taken to dryness to give 9.9 g of 1-acetyl-5,7-dibromonaphthalene.

reactant | 1-acetyl-5,7-dibromonaphthalene | C(C)(=O)C1=CC=CC2=C(C=C(C=C12)Br)Br | C12H8Br2O
reactant | benz[cd]-indol-2(1H)-one | N1C(C2=C3C(C=CC=C13)=CC=C2)=O | C11H7NO
reactant | bromine | BrBr | Br2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,8-dibromobenz[cd]indol-2(1H)-one | 41 g | BrC=1C=2C3=C(C(NC3=C(C1)Br)=O)C=CC2 | C11H5Br2NO
